US05338639
5 ml of tetrachloromethane are added to 23.3 g (1 mol) of magnesium turnings in 50 ml of dry ethanol under nitrogen and in the absence of moisture. After the beginning of gas evolution, a solution of 147.1 g (1 mol) of isopropyl acetoacetate in 100 ml of dry ethanol was slowly added dropwise, the reaction mixture being kept at the reflux temperature. Stirring was carried out for a further 4 hours at this temperature, after which the mixture was cooled. 78.5 g (1 mol) of acetyl chloride was slowly added dropwise at 10° C. Stirring was continued for a further 4 hours at room temperature and hydrolysis was then effected with a mixture of 450 ml of ice water and 25 ml of concentrated sulfuric acid. The organic phase was separated off, dried, and evaporated down under reduced pressure. 192.3 g of >96% pure isopropyl 2-acetylacetoacetate were obtained.

reactant | magnesium | 1 mol, 23.3 g | [Mg] | Mg
reactant | isopropyl acetoacetate | 1 mol, 147.1 g | C(CC(=O)C)(=O)OC(C)C | C7H12O3
reactant | acetyl chloride | 1 mol, 78.5 g | C(C)(=O)Cl | C2H3ClO
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrachloromethane | 5 ml | ClC(Cl)(Cl)Cl | CCl4
product | isopropyl 2-acetylacetoacetate | 192.3 g, >96% | C(C)(=O)C(C(=O)OC(C)C)C(=O)C | C9H14O4
